US05101411
1-Acetonaphtone is reacted with 1-naphtoaldehyde and sodium hydroxide in ethanol to produce 1,3-dinaphthyl-3-hydroxypropanone. The resulting compound is reacted with KHSO4 to obtain 1,3-dinaphthyl-3-propene-1-on. The resulting compound is reacted with hydrazine and potassium hydroxide in triethylene glycol to produce 1,3-dinaphthylpropane. 1,3-Dinaphthylpropane is reacted with fuming nitric acid and acetic acid anhydride to produce 1,3-dinitronaphthylpropane.

reactant | 1-Acetonaphtone | CC(=O)C1=CC=CC2=CC=CC=C21 | C12H10O
reactant | 1-naphtoaldehyde | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1,3-dinaphthyl-3-hydroxypropanone | C1(=CC=CC2=CC=CC=C12)CC(C(O)C1=CC=CC2=CC=CC=C12)=O | C23H18O2
